US07157487B2
(Step 5) Synthesis of methyl 4-((2S,4S)-4-fluoro-1-(2-(2-methylphenylamino)-5-benzoxazolylacetyl)-2-pyrrolidinylmethoxy)benzoate
In DMF (5 ml), 2-(2-methylphenylamino)-5-benzoxazolylacetic acid (282 mg, 1.0 mmol), methyl 4-((2S,4S)-4-fluoro-1-2-pyrrolidinylmethoxy)benzoate (253 mg, 1.0 mmol), EDC•HCl (288 mg, 1.5 mmol), HOBT (203 mg, 1.5 mmol) and triethylamine (0.70 ml, 5.0 mmol) were stirred at room temperature for 18 hours. The reaction mixture was poured in water, followed by extraction with ethyl acetate. The extract was washed with ice water and saturated brine, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column (silica gel: 50 g), whereby from chloroform/acetone (10/1) eluate fractions, the title compound (405 mg, 78%) was obtained as a pale brown amorphous substance.

reactant | 2-(2-methylphenylamino)-5-benzoxazolylacetic acid | 1.0 mmol, 282 mg | CC1=C(C=CC=C1)NC=1OC2=C(N1)C=C(C=C2)CC(=O)O | C16H14N2O3
reactant | methyl 4-((2S,4S)-4-fluoro-1-2-pyrrolidinylmethoxy)benzoate | 1.0 mmol, 253 mg | F[C@H]1C[C@H](NC1)COC1=CC=C(C(=O)OC)C=C1 | C13H16FNO3
reactant | EDC•HCl | 1.5 mmol, 288 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 1.5 mmol, 203 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 5.0 mmol, 0.70 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | methyl 4-((2S,4S)-4-fluoro-1-(2-(2-methylphenylamino)-5-benzoxazolylacetyl)-2-pyrrolidinylmethoxy)benzoate | 405 mg, 78% | F[C@H]1C[C@H](N(C1)C(CC=1C=CC2=C(N=C(O2)NC2=C(C=CC=C2)C)C1)=O)COC1=CC=C(C(=O)OC)C=C1 | C29H28FN3O5
